US07427632B2
6-Chloro-N-[1-(2-chlorophenyl)-2-(1-isopropylpiperidin-4-yl-methoxy)ethyl]benzo[b]thiophene-2-carboxamide
Using alkylation method A, 6-chloro-N-[1-(2-chloro-phenyl)-2-(piperidin-4-ylmethoxy)ethyl]benzo[b]thiophene-2-carboxamide (255 mg, 0.55 mmol) and acetone (2.0 mL, 27 mmol) afforded, after purification (SiO2: 4:4:1 hexane EtOAc:isopropylamine), 150 mg (54%) of the title compound.

reactant | 6-chloro-N-[1-(2-chloro-phenyl)-2-(piperidin-4-ylmethoxy)ethyl]benzo[b]thiophene-2-carboxamide | 0.55 mmol, 255 mg | ClC=1C=CC2=C(SC(=C2)C(=O)NC(COCC2CCNCC2)C2=C(C=CC=C2)Cl)C1 | C23H24Cl2N2O2S
reactant | acetone | 27 mmol, 2.0 mL | CC(=O)C | C3H6O
product | 6-Chloro-N-[1-(2-chlorophenyl)-2-(1-isopropylpiperidin-4-yl-methoxy)ethyl]benzo[b]thiophene-2-carboxamide | ClC=1C=CC2=C(SC(=C2)C(=O)NC(COCC2CCN(CC2)C(C)C)C2=C(C=CC=C2)Cl)C1 | C26H30Cl2N2O2S
